US07893056B2
6-Chloro-5-fluoro-N-methyl-2-(methylthio)-N-(1,3-thiazol-2-ylmethyl)-4-pyrimidinamine (0.4928 g, 1.621 mmol) was dissolved in 5 mL of DMSO and hydrazine monohydrate (0.63 mL, 12.96 mmol). The reaction vessel was pressure sealed and heated to 80° C. for 2 hours. The reaction mixture was purified by RP-HPLC to provide 5-fluoro-6-hydrazino-N-methyl-2-(methylthio)-N-(1,3-thiazol-2-ylmethyl)-4-pyrimidinamine as a beige solid (0.2112 g, 43%). LCMS: (M+H)+=301.0.

reactant | 6-Chloro-5-fluoro-N-methyl-2-(methylthio)-N-(1,3-thiazol-2-ylmethyl)-4-pyrimidinamine | 1.621 mmol, 0.4928 g | ClC1=C(C(=NC(=N1)SC)N(CC=1SC=CN1)C)F | C10H10ClFN4S2
reactant | hydrazine monohydrate | 12.96 mmol, 0.63 mL | O.NN
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 5-fluoro-6-hydrazino-N-methyl-2-(methylthio)-N-(1,3-thiazol-2-ylmethyl)-4-pyrimidinamine | 0.2112 g, 43% | FC=1C(=NC(=NC1NN)SC)N(CC=1SC=CN1)C | C10H13FN6S2
